* Created by KLayout

* cell XOR2
* pin B
* pin Y
* pin A
* pin vdd
* pin gnd
.SUBCKT XOR2 B Y A vdd gnd
* device instance $1 r0 *1 18.1,44.8 PMOS_mst
M$1 \$9 \$2 Y vdd PMOS_mst L=1U W=10.2U AS=28.56P AD=15.3P PS=26U PD=13.2U
* device instance $2 r0 *1 22.1,44.8 PMOS_mst
M$2 vdd B \$9 vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $3 r0 *1 26.1,44.8 PMOS_mst
M$3 \$9 A vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=28.56P PS=13.2U PD=26U
* device instance $4 r0 *1 6.1,44.8 PMOS_mst
M$4 \$8 A vdd vdd PMOS_mst L=1U W=10.2U AS=28.56P AD=15.3P PS=26U PD=13.2U
* device instance $5 r0 *1 10.1,44.8 PMOS_mst
M$5 \$2 B \$8 vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=28.56P PS=13.2U PD=26U
* device instance $6 r0 *1 18.1,6.8 NMOS_mst
M$6 gnd \$2 Y gnd NMOS_mst L=1U W=3.4U AS=9.52P AD=5.1P PS=12.4U PD=6.4U
* device instance $7 r0 *1 22.1,6.8 NMOS_mst
M$7 \$5 B gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $8 r0 *1 26.1,6.8 NMOS_mst
M$8 Y A \$5 gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=9.52P PS=6.4U PD=12.4U
* device instance $9 r0 *1 6.1,6.8 NMOS_mst
M$9 gnd A \$2 gnd NMOS_mst L=1U W=3.4U AS=9.52P AD=5.1P PS=12.4U PD=6.4U
* device instance $10 r0 *1 10.1,6.8 NMOS_mst
M$10 \$2 B gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=9.52P PS=6.4U PD=12.4U
.ENDS XOR2
